### PR TITLE
feat(verifier): every operation of a verified context verifies

### PR DESCRIPTION
**Pull request by tobiasgrosser**
`OperationPtr.satisfyInvariants_of_IRContext_satisfyOpInvariants` was an axiom. With the `forOpsDepM` lemma from #1517 we can prove it.`Verifier.lean` has no axioms left.

### CODE REVIEW

File: Veir/Verifier.lean [hunk 1]
```diff
@@ -428,10 +428,20 @@ def OperationPtr.Verified (ctx : WfIRContext OpCode) (op : OperationPtr)
 If the context satisfies the invariants of all operations, any operation in bounds is verified.
 -/
 @[grind →]
-axiom OperationPtr.satisfyInvariants_of_IRContext_satisfyOpInvariants {ctx : WfIRContext OpCode}
+theorem OperationPtr.satisfyInvariants_of_IRContext_satisfyOpInvariants {ctx : WfIRContext OpCode}
     {op root : OperationPtr} (ctxVerify : ctx.Verified root)
     (opInBounds : op.InBounds ctx.raw := by grind) :
-    op.Verified ctx opInBounds
+    op.Verified ctx opInBounds := by
+  unfold WfIRContext.Verified WfIRContext.verify at ctxVerify
```
Comment (math-fehr) [inline Veir/Verifier.lean:435]: Same as the other PR for the unfold

**Review by math-fehr — APPROVED** [review]

File: Veir/Verifier.lean (hunk 1 above)
Comment (tobiasgrosser) [reply Veir/Verifier.lean]: Resolved
